US08071595B2
To a stirred solution of 4-methoxybenzaldehyde (2 g, 14.6 mmol) in EtOH (50 mL) was added a solution of NaCN (0.8 g, 16.3 mmol) in water (5 mL) and the reaction mixture was refluxed for 16 h. The reaction mixture was diluted with water and extracted with EtOAc (2×50 mL). The combined organic layers were washed with water, dried over Na2SO4, filtered and then concentrated in vacuo to yield a crude material which was purified via silica gel column chromatography eluting with 40% EtOAc in hexanes to afford 2-hydroxy-1,2-bis(4-methoxyphenyl)ethanone (1.3 g, 65%) as a solid.

reactant | 4-methoxybenzaldehyde | 14.6 mmol, 2 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | NaCN | 16.3 mmol, 0.8 g | [C-]#N.[Na+]
solvent | EtOH | 50 mL | CCO | C2H6O
solvent | water | 5 mL | O | H2O
product | 2-hydroxy-1,2-bis(4-methoxyphenyl)ethanone | 1.3 g, 65% | OC(C(=O)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C16H16O4
